US06544985B2
3-Oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid tert.-butyl ester
The title compound was prepared from 3-[1,2,3]triazol-1-yl-benzoic acid [prepared by refluxing of methyl 3-azidobenzoate [CAS-No. 93066-93-4] in trimethylsilyl-acetylene, followed by saponification with aqueous NaOH in refluxing EtOH] (10.0 g, 52.86 mmol) by activation with ethyl chloroformate/Et3N and reaction with mono tert.-butyl malonate potassium salt with Et3N and MgCl2 in CH3CN according to general procedure K (method a). Obtained as an orange oil (11.55 g).

reactant | 3-[1,2,3]triazol-1-yl-benzoic acid | 52.86 mmol, 10.0 g | N1(N=NC=C1)C=1C=C(C(=O)O)C=CC1 | C9H7N3O2
reactant | ethyl chloroformate Et3N | ClC(=O)OCC.CCN(CC)CC
reactant | mono tert.-butyl malonate potassium salt | [K+].C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
solvent | CH3CN | CC#N | C2H3N
solvent | Et3N | CCN(CC)CC | C6H15N
product | 3-Oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O | C15H17N3O3
